US07179823B1
A mixture of ethyl 3-[1-[2-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethyl]-3-ethoxy-1H-pyrazol-4-yl]propionate (968 mg), phenylboronic acid (280 mg), tetrakis(triphenylphosphine)palladium (57.8 mg), sodium carbonate (488 mg), ethanol (3 ml), water (3 ml) and toluene (15 ml) was refluxed overnight under an argon atmosphere. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-ethoxy-1-[2-(5-phenylimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethyl]-1H-pyrazol-4-yl]propionate (1040 mg, yield: 99%) as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | ethyl 3-[1-[2-(5-chloroimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethyl]-3-ethoxy-1H-pyrazol-4-yl]propionate | 968 mg | ClC1=CC=CC=2N1C=C(N2)COC2=NC=CC(=C2)CN2N=C(C(=C2)CCC(=O)OCC)OCC | C24H26ClN5O4
reactant | phenylboronic acid | 280 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 488 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 57.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 ml | O | H2O
product | ethyl 3-[3-ethoxy-1-[2-(5-phenylimidazo[1,2-a]pyridin-2-ylmethoxy)-4-pyridylmethyl]-1H-pyrazol-4-yl]propionate | 1040 mg, yield: 99% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=NC=C1)OCC=1N=C2N(C(=CC=C2)C2=CC=CC=C2)C1 | C30H31N5O4
